US07491720B2
(2) Synthesis of methyl hydrogen 4-bromopyridine-2,6-dicarboxylate
A mixture of 6.09 g of dimethyl 4-bromopyridine-2,6-dicarboxylate, 1.08 g of potassium hydroxide, 200 ml of methanol and 20 ml of dichloromethane was stirred at room temperature for 3 hours, and 200 ml of ether was added thereto. The resulting white solid was filtered, and then washed with ether. The obtained white solid was dissolved in water, and then 12 ml of hydrochloric acid (2 M) was added thereto. The resulting mixture was extracted with chloroform. The organic layer was dried over anhydrous magnesium sulfate and filtered, and the filtrate was concentrated in vacuo to give the title compound.

reactant | dimethyl 4-bromopyridine-2,6-dicarboxylate | 6.09 g | BrC1=CC(=NC(=C1)C(=O)OC)C(=O)OC | C9H8BrNO4
reactant | potassium hydroxide | 1.08 g | [OH-].[K+]
reactant | methanol | 200 ml | CO | CH4O
reactant | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | ether | 200 ml | CCOCC | C4H10O
product | methyl hydrogen 4-bromopyridine-2,6-dicarboxylate | BrC1=CC(=NC(=C1)C(=O)O)C(=O)OC | C8H6BrNO4
